** sch_path: /workspaces/usm-vlsi-tools/shared_xserver/IHP/Talleres/Taller3/Insumos/inv_lv.sch
.subckt inv_lv

M2 VOUT VIN VSS VSS sg13_lv_nmos l=0.13u w=0.3u ng=1 m=1
M1 VOUT VIN VDD VDD sg13_lv_pmos l=0.13u w=0.6u ng=1 m=1
.ends
.end
